US05861401
5-Dimethylamino-N-(6-chloro-3-pyridazinyl)-1-naphthalenesulphonamide (0.36 g), was suspended in N-methylpyrrolidone (1 ml) and freshly prepared 1M sodium methoxide in methanol (3 ml) was added. The reaction mixture was heated to reflux for 4 hours, cooled and evaporated to dryness. The residue was purified by flash chromatography on silica gel (5 g) eluting with a methanol/dichloromethane gradient to give 5-dimethylamino-N-(6-methoxy-3-pyridazinyl)-1-naphthalenesulphonamide (0.14 g), m.p. 125°-127° C.; mass spectrum (+ve CI): 359 (M+H)+.

reactant | 5-Dimethylamino-N-(6-chloro-3-pyridazinyl)-1-naphthalenesulphonamide | 0.36 g | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)NC=1N=NC(=CC1)Cl)C | C16H15ClN4O2S
reactant | sodium methoxide | 1M | C[O-].[Na+]
solvent | N-methylpyrrolidone | 1 ml | CN1C(CCC1)=O | C5H9NO
solvent | methanol | 3 ml | CO | CH4O
product | 5-dimethylamino-N-(6-methoxy-3-pyridazinyl)-1-naphthalenesulphonamide | 0.14 g | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)NC=1N=NC(=CC1)OC)C | C17H18N4O3S
